US09387200B2
a) 4-Hydroxy-3-phenyl-7-pyridin-4-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
The title compound was synthesized in analogy to Example 3 from 7-bromo-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and 4-(tributylstannyl)pyridine: MS (m/z) 378.1 (M+1).

reactant | 7-bromo-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | 4-(tributylstannyl)pyridine | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
product | 4-Hydroxy-3-phenyl-7-pyridin-4-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC=NC=C1)SN=C2C2=CC=CC=C2)O | C20H15N3O3S
